US04399131
76 g (0.35 mole) of ethyl 2-n-butoxyimino-acetoacetate and 18 ccs (0.35 mole) of bromine react analogously to Example 4, stage 2, to give 93 g of ethyl 4-bromo-2-n-butoxyimino-acetoacetate.

reactant | ethyl 2-n-butoxyimino-acetoacetate | 0.35 mole, 76 g | C(CCC)ON=C(C(=O)OCC)C(=O)C | C10H17NO4
reactant | bromine | 0.35 mole | BrBr | Br2
product | ethyl 4-bromo-2-n-butoxyimino-acetoacetate | 93 g | BrCC(C(C(=O)OCC)=NOCCCC)=O | C10H16BrNO4
